US07183319B2
2-[(4-hydroxyphenyl)thio]ethylamine hydrochloride (20).
A mixture of 4-hydroxythiophenol (2.48 g, 19.7 mmol) and 2-methyl-2-oxazoline (1.67 g, 1.69 mL, 19.7 mmol) were refluxed (neat) under argon for two hours. Upon cooling, the crude sticky solid was re-suspended in concentrated hydrochloric acid (aq) and refluxed for 12 hours. The mixture was then poured into water (20 mL) and extracted with diethyl ether (2×20 mL). The aqueous liquors were concentrated to dryness and twice re-dissolved in water and re-concentrated. Re-crystallisation of the resultant solid (ethanolidiethyl ether) gave the product as a cream solid (0.45 g, 11%); m.p. 130–31 ° C. (lit.11 128–29° C.); 1H (400 MHz, D2O) δ 3.07 (4H, br s, 2×CH2), 6.87 (2H, d, J 11.9 Hz, Ar), 7.41 (2H, d, J 11.9 Hz, Ar)

reactant | 4-hydroxythiophenol | 19.7 mmol, 2.48 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | 2-methyl-2-oxazoline | 19.7 mmol, 1.69 mL, 1.67 g | CC=1OCCN1 | C4H7NO
reactant | water | 20 mL | O | H2O
reactant | hydrochloric acid | Cl | ClH
product | 2-[(4-hydroxyphenyl)thio]ethylamine hydrochloride | 0.45 g, 11% | Cl.OC1=CC=C(C=C1)SCCN | InChI=1S/C8H11NOS.ClH/c9-5-6-11-8-3-1-7(10)2-4-8;/h1-4,10H,5-6,9H2;1H
